* eeschema netlist version 1.1 (spice format) creation date: mon jun 22 15:31:09 2015

.include ua741.sub
x1 net-_r2-pad1_ in out ua741
r2  net-_r2-pad1_ gnd 1k
r3  gnd out 1k
r5  out in 1k
v1  net-_r1-pad2_ gnd sine(0 2 50 0 0)
r1  in net-_r1-pad2_ 1k
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
