* /home/fossee/downloads/esim-master/examples/inverting_amplifier/inverting_amplifier.cir

.include ua741.sub
x1 net-_r2-pad2_ net-_r1-pad2_ out ua741
v1  in gnd sine(0 2 50 0 0)
r2  gnd net-_r2-pad2_ 1k
r1  in net-_r1-pad2_ 1k
r5  net-_r1-pad2_ out 2k
r3  out gnd 1k
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
